US05578287
4. Preparation of N,N-bis-(6-hexanoyl)biotinamide
To a solution of 610 mg (0.819 mmol) of N,N-bis-(methyl 6-hexanoyl)-biotinamide in 35 ml of methanol was added 5.0 ml of 1N aqueous sodium hydroxide. The mixture was stirred at 15°-25° C. for 4.5 hours and then concentrated. The residue was diluted with 50 ml of deionized water acidified to pH 2 with 1N aqueous hydrochloric acid at 4° C. The product, which precipitated out as a white solid, was isolated by vacuum filtration and dried under vacuum to afford 482 mg (84%):

reactant | N,N-bis-(methyl 6-hexanoyl)-biotinamide | 0.819 mmol, 610 mg | CCCCCCC(=O)N(C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)C(CCCCCC)=O | C24H41N3O4S
reactant | sodium hydroxide | 1N, 5.0 ml | [OH-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
product | N,N-bis-(6-hexanoyl)biotinamide | CCCCCC(=O)N(C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)C(CCCCC)=O | C22H37N3O4S
